US04559353
A mixture of 3-chloro-5-trifluoromethyl-2-(4-nitrophenoxy)pyridine (1.0 g), iron powder (3.2 g), isopropyl alcohol (60 ml), water (6 ml) and dilute hydrochloric acid (0.2 ml of a 2N solution), were heated at the reflux temperature for 12 hours. After cooling and filtering to remove the solid matter, the filtrate was concentrated by evaporation of the volatile portion under reduced pressure. The residual solid was recrystallised from n-hexane to yield 2-(4-aminophenoxy)-3-chloro-5-trifluoromethylpyridine (0.73 g) m.p. 85°-87° C.

reactant | 3-chloro-5-trifluoromethyl-2-(4-nitrophenoxy)pyridine | 1.0 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H6ClF3N2O3
reactant | isopropyl alcohol | 60 ml | C(C)(C)O | C3H8O
reactant | hydrochloric acid | Cl | ClH
catalyst | iron | 3.2 g | [Fe] | Fe
solvent | water | 6 ml | O | H2O
product | 2-(4-aminophenoxy)-3-chloro-5-trifluoromethylpyridine | 0.73 g | NC1=CC=C(OC2=NC=C(C=C2Cl)C(F)(F)F)C=C1 | C12H8ClF3N2O
